US04223038
Benzyl 7-oxo-3-phenylthio-1-azabicyclo[3,2,0]heptane-2-carboxylate
Crude benzyl 7-oxo-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate prepared from an ethyl acetate solution of 4-allyl-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one (1.00 g) by ozonolysis and cyclisation was dissolved in dry dimethylformamide (5 ml) treated successively with thiophenol (0.20 ml) and potassium carbonate (0.133 q) with stirring. After a period of 1 hour the solution was concentrated under reduced pressure and the residue treated with ethyl acetate. It was then washed with brine, dried over sodium sulphate and concentrated. Chromatography on silica gel 60 (<230 mesh) eluting with 60°-80° petroleum ether/ethyl acetate 7:3 grading to 6:4 gave two fractions containing diastereoisomers of the title compound. The least polar fraction (0.183 g) was an approximately 4:1 mixture of isomers A (5) and B (6); νmax (CHCl3) 3000, 1760 and 1740 (sh); τ(CDCl3) for major isomer A (5), 2.6-2.9 (10H, m, phenyls), 4.88 (2H, s, benzyl CH2), 5.26 (1H, d, J 7 Hz, C2-H), ca 5.90 (1H, br m, C5-H), 6.10 (1H, td, J9 and 7 Hz, C3-H), 6.69 (1H, dd, J16 and 5 Hz, C6-H), 7.32 (1H, dd, J16 and 21/2 Hz, C6-H), 7.73 (1H, dd, J9 and 7 Hz, C4-H) and 7.77 (1H, dd, J9 and 4 Hz, C4-H); minor isomer B (6) had 5.62 (d, J 5 Hz, C2-H); (M+ for mixture at m/e 353.1102. C20H19NO3S requires 353.1085). The more polar fraction (0.102 g) was isomer C (8) which could be crystallized from diethyl ether; m.p. 84°-85°; νmax (CHCl3) 3000, 1765 and d 1740 cm-1 ; τ(CDCl3) 2.6-2.9 (10H, m, phenyls), 4.81 (2H, s, benzyl CH2), 5.84 (1H, d, J 7 Hz, C2-H), 6.04 (1H, ddd, J12, 7 and 5 Hz, C3-H), 6.2-6.5 (1H, m, C5-H), 6.90 (1H, dd, J16 and 4 Hz, C6-H), 7.19 (1H, dd, J16 and 21/2 Hz, C6-H), 7.64 (1H, dt, J12 and 5 Hz, C4-H) and 7.95 (1H, td, J12 and 10 Hz, C4-H); (Found; C, 68.1; H, 5.6; N, 3.9% C20H19NO3S requires C, 68.0; H, 5.4 and N, 4.0%).

reactant | benzyl 7-oxo-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | O=C1CC2CC=C(N12)C(=O)OCC1=CC=CC=C1 | C14H13NO3
reactant | 4-allyl-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one | 1.00 g | C(C=C)C1CC(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C33H30NO3P
reactant | thiophenol | 0.20 ml | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 7-oxo-3-phenylthio-1-azabicyclo[3,2,0]heptane-2-carboxylate | O=C1CC2CC(C(N12)C(=O)OCC1=CC=CC=C1)SC1=CC=CC=C1 | C20H19NO3S
